US08013156B2
A mixture of 5′,6′-Dicyano-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (100 mg) and 30% TFA in DCM (11 ml) was stirred for 2 hours. The mixture was concentrated in vacuo to dryness. To the residue was added DCM (5 ml), TEA (0.31 mmol, 51 ul), and 3,5-bis(trifluoromethyl)phenyl isocyanate (0.15 mmol, 26 ul). The resulting mixture was stirred at room temperature for 3 hours. After concentrated in vacuo, the crude product was purified by column on silica using 70% EtOAc/Hexanes to give the product N-[3,5-bis(trifluoromethyl)phenyl]-4-{5,6-dicyano-3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}piperazine-1-carboxamide. 1H NMR (CD3OD) 8.594 (s, 2H), 8.073 (s, 2H), 7.555-7.534 (m, 3H), 5.584 (s, 2H), 4.043-4.029 (m, 4H), 3.739-3.713 (m, 4H) ppm.

reactant | 5′,6′-Dicyano-3′-(pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(N=C1OCC1=CC=NC=C1)C#N)C#N | C21H23N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 0.15 mmol, 26 ul | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | DCM | 11 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-{5,6-dicyano-3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}piperazine-1-carboxamide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC(=C(N=C1OCC1=CC=NC=C1)C#N)C#N)(F)F | C25H18F6N8O2
